US04474793
4-Nitrobenzyl-(4-allylthio-3-ethylazetidin-2-on-1-yl) acetate
To a solution of 2.5 g of (4-allylthio-3-ethylazetidin-2-on-1-yl)acetic acid in 8 ml of dimethylacetamide was added 0.636 g of freshly ground sodium carbonate. After stirring for 20 minutes, 2.591 g of 4-nitrobenzyl bromide were added in one batch. After about 45 minutes, when the starting material had been consumed, the solution was poured into water and extracted three times with ethyl acetate. The combined organic extracts were washed with saturated sodium bicarbonate, water and saturated brine, and then dried over magnesium sulphate, evaporated in vacuo and chromatographed on silica gel, eluting with ethyl acetate/hexane mixtures to give the title compound as a pale yellow oil. (Yield 3.08 g)

reactant | (4-allylthio-3-ethylazetidin-2-on-1-yl)acetic acid | 2.5 g | C(C=C)SC1C(C(N1CC(=O)O)=O)CC | C10H15NO3S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-nitrobenzyl bromide | 2.591 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | dimethylacetamide | 8 ml | CC(=O)N(C)C | C4H9NO
product | 4-Nitrobenzyl-(4-allylthio-3-ethylazetidin-2-on-1-yl) acetate | C(C)(=O)ON1C(C(C1SCC=C)(CC)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C17H20N2O5S
